US08012976B2
A mixture of ethyl 4-oxo-3-phenyl-2-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (340 mg) in 85% hydrazine monohydrate (6 mL) and methanol (3 mL) was stirred at room temperature for 2 h. After the evaporation of the solvent, water was added. Filtered and washed the cake by water (5 mL) then ethyl acetate to obtain a white solid. The solid was dried in vacuum at 50° C. to obtain 9-phenyl-8-(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (150 mg, yield: 48%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 4.38-4.40 (d, J=7.6 Hz, 1H), 4.84-7.86 (d, J=8.0 Hz, 1H), 7.15-7.25 (m, 6H), 7.30-7.31 (m, 2H), 7.39-7.41 (d, J=7.6 Hz, 1H), 7.51-7.52 (s, 1H), 7.59-7.62 (t, J=8.0 Hz, 1H), 8.43-8.44 (d, J=6.0 Hz, 2H) 12.19 (s, 1H); LC-MS (ESI) m/z: 341 (M+1)+.

reactant | ethyl 4-oxo-3-phenyl-2-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 340 mg | O=C1C(C(NC=2C=CC=C(C12)C(=O)OCC)C1=CC=NC=C1)C1=CC=CC=C1 | C23H20N2O3
reactant | hydrazine monohydrate | 6 mL | O.NN
solvent | methanol | 3 mL | CO | CH4O
product | 9-phenyl-8-(pyridin-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 150 mg, yield: 48% | C1(=CC=CC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=NC=C2 | C21H16N4O
